US05000775
Benzyl 2-(butylamino)-4-(trifluoromethyl)-5-thiazolecarboxylate
By the procedure of Example 39, a stirred mixture of 20 ml acetonitrile, 3.65 g (49.8 mmol) of n-butylamine, and 8 g (24.9 mmol) of benzyl 2-chloro-4-trifluoromethyl-5-thiazolecarboxylate (prepared as described in U.S. Pat. No. 4,199,506), was heated at reflux for 24 hours. The product was separated and then recrystallized from hexane to yield 3.24 g of a yellow solid product (m.p.=77°-79° C.) identified in Table I.

reactant | n-butylamine | 49.8 mmol, 3.65 g | C(CCC)N | C4H11N
reactant | benzyl 2-chloro-4-trifluoromethyl-5-thiazolecarboxylate | 24.9 mmol, 8 g | ClC=1SC(=C(N1)C(F)(F)F)C(=O)OCC1=CC=CC=C1 | C12H7ClF3NO2S
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | Benzyl 2-(butylamino)-4-(trifluoromethyl)-5-thiazolecarboxylate | 3.24 g | C(CCC)NC=1SC(=C(N1)C(F)(F)F)C(=O)OCC1=CC=CC=C1 | C16H17F3N2O2S
